US04863948
(E) N-[2-(4-Methanesulphonamidophenyl)-2-hydroxyethyl]-N-methyl-2-(phthalazin-1-on-2-yl)ethylamine
N-[2-(4-{N-Benzylmethanesulphonamido}phenyl)-2-hydroxyethyl]-N-methyl-2-(phthalazin-1-on-2-yl)ethylamine (0.4 g--as solvate from part D) in ethanol (50 ml) containing 5% Pd/C (0.1 g) was stirred under a hydrogen atmosphere (50 p.s.i.) at 50° for 18 hours. The reaction mixture was then filtered and the ethanol removed. The residue was dissolved in methylene chloride and washed three times with sodium bicarbonate solution and three times with brine. The organic layer was dried and evaporated to give an oil which was purified by column chromatography on silica, "Kieselgel 60" (Merck, Trade Mark), eluting with methylene chloride containing methanol (0% up to 2%). The appropriate fractions were combined and evaporated to give an oil which solidified after stirring for 14 hours in diethyl ether, filtration giving the title compound, 0.11 g, m.p. 134°-137°.

reactant | N-[2-(4-{N-Benzylmethanesulphonamido}phenyl)-2-hydroxyethyl]-N-methyl-2-(phthalazin-1-on-2-yl)ethylamine | 0.4 g | C(C1=CC=CC=C1)N(S(=O)(=O)C)C1=CC=C(C=C1)C(CN(C)CCN1C(C2=CC=CC=C2C=N1)=O)O | C27H30N4O4S
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | Pd/C | 0.1 g | [Pd] | Pd
product | N-[2-(4-Methanesulphonamidophenyl)-2-hydroxyethyl]-N-methyl-2-(phthalazin-1-on-2-yl)ethylamine | CS(=O)(=O)NC1=CC=C(C=C1)C(CN(C)CCN1C(C2=CC=CC=C2C=N1)=O)O | C20H24N4O4S
